US06090941
A mixture of 9-Bromo-5,6-dihydro-3-methylbenzo[f]quinazolin-1(2H)-one (1.0 g, 3.4 mmoles), N-bromosuccinimide (0.63 g, 3.5 mmoles) and pyridine (0.3 ml, 3.7 mmoles) in dry benzene (350 ml) was reacted in the same manner as for the corresponding 3-pivalamide (Example 2). After cooling, benzene and excess pyridine were removed under reduced pressure. The residue was triturated with methanol:water (1:1) and filtered to leave a crude product which was recrystallized from methanol to give 9-bromo-3-methylbenzo[f]quinazolin-1(2H)-one as an off-white solid. (0.47 g, 37%) 1H NMR(DMSO-d61 200MHz) δ: 2.57(s, 3H, CH3); 7.73(d, J=9.0 Hz, 1H, Ar); 7.86(dd, J=8.6, 2.0 Hz, 1H, Ar); 8.09(d, J=8.7 Hz, 1H, Ar); 8.41(d, J=8.8 Hz, 1H, Ar); 9.92(d, J=2.0 Hz, 1H, Ar).

reactant | 9-Bromo-5,6-dihydro-3-methylbenzo[f]quinazolin-1(2H)-one | 3.4 mmoles, 1.0 g | BrC=1C=CC2=C(C=3C(NC(=NC3CC2)C)=O)C1 | C13H11BrN2O
reactant | N-bromosuccinimide | 3.5 mmoles, 0.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | pyridine | 3.7 mmoles, 0.3 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | 9-bromo-3-methylbenzo[f]quinazolin-1(2H)-one | BrC=1C=CC2=C(C=3C(NC(=NC3C=C2)C)=O)C1 | C13H9BrN2O
